  sdopifi9shf9
  sdviNo one cares abt this
  .circuit 

R1 GND 1 1e3     		#Bs .circuit this assignment sucks .end
R2 1 2 4e3
R3 2 GND 20e3
R4 2 in3 8e3
R5 GND in1 10e3
V1 GND in1 5
.end

